US05972929
(2) 2-(Octadecanoylamino)benzoic acid
A sodium hydroxide solution (NaOH 0.14 g / water 2 ml) was added to a solution of ethyl 2-(octadecanoylamino)benzoate (1.00 g) in ethanol (10 ml). After being stirred for 4 hours at room temperature, the reaction mixture was concentrated. The residue, with ethyl acetate added thereto, was washed with diluted hydrochloric acid, water and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The residue was recrystallized from hexane-ethyl acetate mixed solution, thereby yielding 0.85 g of the aimed compound as colorless crystals.

reactant | sodium hydroxide | 2 ml, 0.14 g | [OH-].[Na+]
reactant | ethyl 2-(octadecanoylamino)benzoate | 1.00 g | C(CCCCCCCCCCCCCCCCC)(=O)NC1=C(C(=O)OCC)C=CC=C1 | C27H45NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(Octadecanoylamino)benzoic acid | 0.85 g | C(CCCCCCCCCCCCCCCCC)(=O)NC1=C(C(=O)O)C=CC=C1 | C25H41NO3
